US07271406B2
Part B: Synthesis of 9,9-Dioctyl-9H-fluorene-2-carboxylic Acid
Into a flask fitted with a nitrogen inlet and rubber septum were introduced 2-bromo-9,9-dioctylfluorene (34.18 g, 72.8 mmole) and dry tetrahydrofuran (300 mL). The solution was cooled to −60° C. and n-butyl lithium (29.1 mL, 2.5M in hexanes, 72.8 mmole) added via a syringe. The reaction mixture was observed to turn red. After stirring for 1 hour at −60° C., the reaction mixture was poured onto powdered dry-ice and left to stand overnight. The mixture was acidified with 1M HCl and extracted with chloroform. The chloroform extract was washed with water, dried over magnesium sulfate and concentrated to give the acid as an oil.

reactant | 2-bromo-9,9-dioctylfluorene | 72.8 mmole, 34.18 g | BrC1=CC=2C(C3=CC=CC=C3C2C=C1)(CCCCCCCC)CCCCCCCC | C29H41Br
reactant | n-butyl lithium | 72.8 mmole, 2.5M, 29.1 mL | C(CCC)[Li]
reactant | dry-ice | C(=O)=O | CO2
reactant | HCl | 1M | Cl | ClH
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 9,9-Dioctyl-9H-fluorene-2-carboxylic Acid | C(CCCCCCC)C1(C2=CC=CC=C2C=2C=CC(=CC12)C(=O)O)CCCCCCCC | C30H42O2
